US05215983
To a solution of (2S,4R)-1-allyloxycarbonyl-4-hydroxy-2-(imidazo[1,2-b]pyrazol-1-yl)methylpyrrolidine (3.16 g) in a mixture of ethyl acetate (60 ml) and triethylamine (2.27 ml) was dropwise added a solution of methanesulfonyl chloride (1.18 ml) in ethyl acetate (5 ml) with stirring under ice-cooling. The mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added water (50 ml) with stirring and the organic layer was separated. The organic layer was washed in turn with saturated aqueous sodium chloride, saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (60 g) eluting with a mixture of dichloromethane and acetone (2:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-1-allyloxycarbonyl -2-(imidazo[1,2-b]pyrazol-1-yl)methyl-4-methanesulfonyloxypyrrolidine (3.06 g).

reactant | (2S,4R)-1-allyloxycarbonyl-4-hydroxy-2-(imidazo[1,2-b]pyrazol-1-yl)methylpyrrolidine | 3.16 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CN1C=CN2N=CC=C21 | C14H18N4O3
reactant | methanesulfonyl chloride | 1.18 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 ml | O | H2O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 2.27 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-1-allyloxycarbonyl -2-(imidazo[1,2-b]pyrazol-1-yl)methyl-4-methanesulfonyloxypyrrolidine | 3.06 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CN1C=CN2N=CC=C21 | C15H20N4O5S
